US07425568B2
2-(2,4-Difluorophenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 800 mg of 2-(2,4-difluorophenyl)chroman-4,6-diol. 1H NMR (400 MHz, d6-DMSO) δ: 8.83 (s, 1H), 7.56 (m, 1H), 7.28 (m, 1H), 7.13 (m, 1H), 6.63 (m, 1H), 6.53-6.50 (m, 2H), 5.17 (dd, 1H, J 10.3, 2.3 Hz), 2.92 (ddd, 1H, J −17.0, 11.5, 5.8 Hz), 2.66 (ddd, 1H, J −17.0, 5.0, 2.7 Hz), 2.09 (m, 1H), 1.98 (m, 1H).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(2,4-difluorophenyl)chroman-4,6-diol | 800 mg | FC1=C(C=CC(=C1)F)C1OC2=CC=C(C=C2C(C1)O)O | C15H12F2O3
product | 2-(2,4-Difluorophenyl)chroman-6-ol | FC1=C(C=CC(=C1)F)C1OC2=CC=C(C=C2CC1)O | C15H12F2O2
